US05843963
To a solution of 2-(4-methoxyphenyl)-3-[N-[4-[2-(1-piperidinyl)ethoxy]phenyl]amino]-6-methoxybenzo[b]thiophene hydrochloride (0.70 g, 1.25 mmol) in 40 mL of anhydrous CH2Cl2 under N2 10° C. was added BBr3 (0.36 mL, 3.80 mmol). The solution was allowed to gradually warm to room temperature and stirred for a total of 6 h. The reaction was quenched by pouring the mixture into an excess of sat. NaHCO3 solution. The aqueous was then extracted several times with 5% EtOH/EtOAc. The organic was combined and dried (Na2SO4) and then concentrated in vacuo to a foam. The crude product was chromatographed (1-6% CH3 OH/CHCl3) to provide 325 mg (49%) of 2-(4-hydroxyphenyl)-3-[N-[4-[2-(1-piperidinyl)ethoxy]phenyl]amino]-6-hydroxybenzo[b]thiophene as an oil. This material was converted to the hydrochloride salt by treatment with Et2O.-HCl in EtOAc, and isolated as a white solid by filtration. Data for 2-(4-Hydroxyphenyl)-3-[N-[4-[2-(1-piperidinyl)ethoxy]phenyl]amino]-6-hydroxybenzo[b]thiophene Hydrochloride: mp 140°-150° C. 1H NMR (DMSO-d6) δ6 9.57 (s, 2H), 7.40 (d, J=8.6 Hz, 2H), 7.19 (d, J=10.1 Hz, 1H), 7.16 (d, J=2.0 Hz, 1H), 6.75 (dd, J=10.1, 2.0 Hz, 1H), 6.70 (d, J=8.6 Hz, 2H), 6.64 (d, J=8.8 Hz, 2H), 6.46 (d, J=8.8 Hz, 2H), 4.21 (m, 2H), 3.50-3.30 (m, 4H), 3.01-2.95 (m, 2H), 1.81-1.63 (m, 5H), 1.38 (m, 1H). FD mass spec: 461. Anal. Calcd. for C27H28 N2O3S.1.5 HCl: C, 62.94; H, 5.77; N, 5.44. Found: C, 62.99; H, 5.88; N, 5.27.

reactant | 2-(4-methoxyphenyl)-3-[N-[4-[2-(1-piperidinyl)ethoxy]phenyl]amino]-6-methoxybenzo[b]thiophene hydrochloride | 1.25 mmol, 0.70 g | Cl.COC1=CC=C(C=C1)C1=C(C2=C(S1)C=C(C=C2)OC)NC2=CC=C(C=C2)OCCN2CCCCC2
reactant | BBr3 | 3.80 mmol, 0.36 mL | B(Br)(Br)Br | BBr3
solvent | CH2Cl2 | 40 mL | C(Cl)Cl | CH2Cl2
product | 2-(4-hydroxyphenyl)-3-[N-[4-[2-(1-piperidinyl)ethoxy]phenyl]amino]-6-hydroxybenzo[b]thiophene | 325 mg, 49% | OC1=CC=C(C=C1)C1=C(C2=C(S1)C=C(C=C2)O)NC2=CC=C(C=C2)OCCN2CCCCC2 | C27H28N2O3S
